US05854232
Under a N2 atmosphere in 50 ml of acetone were combined 0.432 g (1 mmol) of bispyridylmethyl N-1-adamantyl thiohydantoin, 0.138 g (1 mmol) of potassium carbonate and 0.142 g (1 mmol) of methyl iodide and the reaction mixture was allowed to stir at room temperature for 48 hours. The reaction mixture was concentrated in vacuo and partitioned in 100 ml EtOAc/10 ml H2O. The organic layer was separated, washed with H2 O(4×10 ml), brine (1x), dried over NaSO4 and concentrated in vacuo. The crude product was purified via column chromatography (silica gel: 92.5/7.25 EtOAc/MeOH) and crystallized from isopropyl ether/hexane (IPE/Hex) to yield N-1-adamantylimidazolinone

reactant | bispyridylmethyl N-1-adamantyl thiohydantoin | 1 mmol, 0.432 g | N1=C(C=CC=C1)CC1(C(NC(N1C12CC3CC(CC(C1)C3)C2)=S)=O)CC2=NC=CC=C2 | C25H28N4OS
reactant | potassium carbonate | 1 mmol, 0.138 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 1 mmol, 0.142 g | CI | CH3I
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | N-1-adamantylimidazolinone | C12(CC3CC(CC(C1)C3)C2)N2C=NC(C2)=O | C13H18N2O
